US04360519
α-Ethyl-α-[N-(2-hydroxypropyl)aminomethyl]-3-methoxybenzene methanol
2-Ethyl-2-(3-methoxyphenyl)oxiran (14 g, 0.079 mole) and 1-amino-2-propanol (100 g., 1.33 mole) wee refluxed with ethanol (50 ml) for 12 hours. The solvent and excess aminopropanol was removed under reduced pressure. The residue was dissolved in methanol (80 ml) and acidified with ethereal hydrogen chloride. The methanol was evaporated and the residue taken up in water (250 ml). Non-basic material was extracted by shaking the aqueous solution with three portions of 100 ml of ether. The aqueous layer was neutralised with a large excess of 0.880 ammonia, and reextracted with ether (3×100 ml). The ether layers were washed with water and dried (MgSO4). Removal of solvent left the title compound in 98% purity (12.3 g).

reactant | 2-Ethyl-2-(3-methoxyphenyl)oxiran | 0.079 mole, 14 g | C(C)C1(OC1)C1=CC(=CC=C1)OC | C11H14O2
reactant | 1-amino-2-propanol | 1.33 mole, 100 g | NCC(C)O | C3H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | α-Ethyl-α-[N-(2-hydroxypropyl)aminomethyl]-3-methoxybenzene methanol | C(C)C(O)(C1=CC(=CC=C1)OC)CNCC(C)O | C14H23NO3
